US03933816
A mixture of 0.1 mole of 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one and 0.11 mole of sodium methoxide in about 200 ml. of dimethylformamide is heated at about 95° c. for about 20 minutes. To the mixture is added a solution of 0.11 mole of methyl bromoacetate in about 200 ml. of toluene over a period of about 1 hour at about 95° C., and heating is continued for an additional period of about 6 hours. The reaction mixture is then evaporated in vacuo and the residue thus obtained is stirred with about 500 ml. of water. The resulting suspension is filtered and the solids thus obtained are crystallized from a suitable organic solvent such as ether, methanol, methylene chloride, methylene chloridemethanol and the like to obtain 7-bromo-2,3-dihydro-2-oxo-5-(2-pyridyl)-1H-1,4-benzodiazepin-1-acetic acid methyl ester.

reactant | 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one | 0.1 mole | BrC=1C=CC2=C(C(=NCC(N2)=O)C2=NC=CC=C2)C1 | C14H10BrN3O
reactant | sodium methoxide | 0.11 mole | C[O-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | methyl bromoacetate | 0.11 mole | BrCC(=O)OC | C3H5BrO2
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-bromo-2,3-dihydro-2-oxo-5-(2-pyridyl)-1H-1,4-benzodiazepin-1-acetic acid methyl ester | COC(CN1C(CN=C(C2=C1C=CC(=C2)Br)C2=NC=CC=C2)=O)=O | C17H14BrN3O3
